US04510141
using 7.90 g (0.023 mol) of 5-(4-chlorophenyl)-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid methyl ester and 4.37 g (0.116 mol) of sodium borohydride there is obtained 5-(4-chlorophenyl)-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-methanol having a melting point of 240°-245° with decomposition;

reactant | 5-(4-chlorophenyl)-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid methyl ester | 0.023 mol, 7.90 g | COC(=O)C1=NN2C(CN(C3=C2C=CC=N3)C3=CC=C(C=C3)Cl)=N1 | C16H12ClN5O2
reactant | sodium borohydride | 0.116 mol, 4.37 g | [BH4-].[Na+]
product | 5-(4-chlorophenyl)-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-methanol | ClC1=CC=C(C=C1)N1CC=2N(C3=C1N=CC=C3)N=C(N2)CO | C15H12ClN5O
